US05514711
To a solution of 3, 4-dimethoxyacetophenone (5.68 g, 31.53 mmol) and cyanoacetic acid (2.95 g, 34.68 mmol) in benzene were added acetic acid (1.9 ml) and ammonium acetate (150 mg), and the resultant mixture was refluxed with Dean Stark's dehydrating apparatus for 13 hours while adding ammonium acetate (130 mg) every 4 hours. The mixture was mixed with chloroform (200 ml), 2N aqueous sodium hydroxide solution (100 ml) and water (200 ml), stirred well and the aqueous layer was separated. The aqueous layer was acidified with dilute hydrochloric acid, and the resulting precipitate was filtered off. The residue was washed with diethyl ether to give a carboxylic acid, 2-cyano-3-methyl-3-(3, 4-dimethoxyphenyl) propionic acid (2.25 g, 29%).

reactant | 3, 4-dimethoxyacetophenone | 31.53 mmol, 5.68 g | CC(=O)C1=CC(=C(C=C1)OC)OC | C10H12O3
reactant | cyanoacetic acid | 34.68 mmol, 2.95 g | C(#N)CC(=O)O | C3H3NO2
reactant | ammonium acetate | 150 mg | C(C)(=O)[O-].[NH4+]
reactant | ammonium acetate | 130 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1.9 ml | C(C)(=O)O | C2H4O2
product | 2-cyano-3-methyl-3-(3, 4-dimethoxyphenyl) propionic acid | 2.25 g, 29% | C(#N)C(C(=O)O)C(C1=CC(=C(C=C1)OC)OC)C | C13H15NO4
